US09102684B2
Preparation of 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1-pyridin-3-yl-1,3-dihydro-indol-2-one
5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one (100 mg, 0.314 mmol), 3-iodopyridine (71 mg, 0.346 mmol), copper (I) iodide (60 mg, 0.314 mmol), N,N′-dimethylethylenediamine (41.5 mg, 0.471 mmol), potassium carbonate (217 mg, 1.571 mmol) are added to a microwave vessel. Dioxane (5 mL) is added and the mixture heated to 140° C. for 30 minutes in a microwave reactor. A further 3-iodopyridine (35 mg, 0.173 mmol) and copper (I) iodide (12 mg, 0.063 mmol) are added. The mixture is again heated to 140° C. for 30 minutes in a microwave reactor. The reaction mixture is filtered. The filtrate is washed with dichloromethane. The volatiles are evaporated and the residue purified using reversed phase HPLC. This afforded the desired product.

reactant | 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1,3-dihydro-indol-2-one | 0.314 mmol, 100 mg | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C)C | C20H18N2O2
reactant | 3-iodopyridine | 0.346 mmol, 71 mg | IC=1C=NC=CC1 | C5H4IN
reactant | N,N′-dimethylethylenediamine | 0.471 mmol, 41.5 mg | CNCCNC | C4H12N2
reactant | potassium carbonate | 1.571 mmol, 217 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-iodopyridine | 0.173 mmol, 35 mg | IC=1C=NC=CC1 | C5H4IN
catalyst | copper (I) iodide | 0.314 mmol, 60 mg | [Cu]I
catalyst | copper (I) iodide | 0.063 mmol, 12 mg | [Cu]I
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-3-methyl-3-phenyl-1-pyridin-3-yl-1,3-dihydro-indol-2-one | CC1=NOC(=C1C=1C=C2C(C(N(C2=CC1)C=1C=NC=CC1)=O)(C1=CC=CC=C1)C)C | C25H21N3O2
